US06458788B1
Ethyl 2-diazo-3-[2-fluoro-5-(4-morpholinylmethyl)phenyl]-3-oxopropanoate
To a solution of ethyl 3-(2-fluoro-5-(4-morpholinylmethyl)phenyl)-3-oxopropanoate (Preparation 6, 5.00 g) and triethylamine (2.48 mL) in 50 mL CH3CN cooled to 0° C. is added toluenesulfonyl azide (3.51g, prepared according to Org. Prep. Proc. Intl., 1981, 13, 112) in 10 mL CH3CN. The reaction is stirred at 0° C. for 15 mnin then at room temperature for 2 h. The reaction is concentrated (below 50° C.). 2N NaOH (25 mL) is added. The aqueous layer is extracted with CHCl3 (3×). The combined organic layers are washed, dried and concentrated to yield 4.68 g (86%) of the desired product as a yellow oil. Physical characteristics are as follows: 1H NMR (CDCl3) δ 7.52, 7.44, 7.06, 4.24, 3.75, 3.55, 2.50, 1.24; MS (ESI+) for C16Hl8FN304 m/z 336.1 (M+H)+.

reactant | ethyl 3-(2-fluoro-5-(4-morpholinylmethyl)phenyl)-3-oxopropanoate | 5.00 g | FC1=C(C=C(C=C1)CN1CCOCC1)C(CC(=O)OCC)=O | C16H20FNO4
reactant | triethylamine | 2.48 mL | C(C)N(CC)CC | C6H15N
reactant | toluenesulfonyl azide | 3.51g | C=1(C(=CC=CC1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | CH3CN | 50 mL | CC#N | C2H3N
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | Ethyl 2-diazo-3-[2-fluoro-5-(4-morpholinylmethyl)phenyl]-3-oxopropanoate | 4.68 g, 86% | [N+](=[N-])=C(C(=O)OCC)C(=O)C1=C(C=CC(=C1)CN1CCOCC1)F | C16H18FN3O4
